US05240938
Step A: Preparation of methyl 2-(2-tert-butyl-4-methylphenoxy)-2-phenylacetate
To a suspension of 1.05 g (9.15 mmol) of a 35% oil dispersion of KH in 15 mL of DMF was added 1.50 g (9.15 mmol) of 2-tert-butyl-4-methylphenol and the mixture was stirred under N2 at room temperature. After 10 minutes, 2.41 g (91.5 mmol) of 18-crown-6 and then a solution of 2.30 g (10.1 mmol) of methyl 2-bromophenylacetate dissolved in 10 mL of DMF were added. The reaction mixture was stirred 17 hours, then partitioned between ethyl acetate and water. The organic layer was separated, washed with water, dried (MgSO4), filtered and evaporated. The residue was purified on a silica gel flash chromatography column eluted with 5% ethyl acetate/hexane to afford 0.750 g (26%) of the title compound.

reactant | 2-tert-butyl-4-methylphenol | 9.15 mmol, 1.50 g | C(C)(C)(C)C1=C(C=CC(=C1)C)O | C11H16O
reactant | 18-crown-6 | 91.5 mmol, 2.41 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | methyl 2-bromophenylacetate | 10.1 mmol, 2.30 g | BrC1=C(C=CC=C1)CC(=O)OC | C9H9BrO2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 2-(2-tert-butyl-4-methylphenoxy)-2-phenylacetate | 0.750 g, 26% | C(C)(C)(C)C1=C(OC(C(=O)OC)C2=CC=CC=C2)C=CC(=C1)C | C20H24O3
